US04251528
A mixture of ethyl 1,2-dihydro-1-oxophthalazin-4-ylacetate (11.5 g.) and sodium hydride (2.7 g.; 50% w/w dispersion in mineral oil) in dimethylformamide (125 ml.) was stirred at 60° C. for 1 hour under nitrogen. The solution obtained was cooled to room temperature and then 4-bromo-3-chlorobenzyl bromide (15.0 g.) was added, and the mixture stirred at 60° C. for 2 hours. After cooling to 25° C. the reaction mixture was poured into water (500 ml.). The aqueous mixture obtained was extracted with ethyl acetate (400 ml.). The extracts were washed with water, dried (MgSO4), and evaporated to give a solid, which was crystallised from propan-2-ol to yield ethyl 2-(3-chloro-4-bromobenzyl)-1,2-dihydro-1-oxophthalazin-4-ylacetate (7.3 g.), m.p. 142°-145° C.

reactant | ethyl 1,2-dihydro-1-oxophthalazin-4-ylacetate | 11.5 g | O=C1NN=C(C2=CC=CC=C12)CC(=O)OCC | C12H12N2O3
reactant | sodium hydride | 2.7 g | [H-].[Na+]
reactant | 4-bromo-3-chlorobenzyl bromide | 15.0 g | BrC1=C(C=C(CBr)C=C1)Cl | C7H5Br2Cl
reactant | water | 500 ml | O | H2O
solvent | dimethylformamide | 125 ml | CN(C=O)C | C3H7NO
product | ethyl 2-(3-chloro-4-bromobenzyl)-1,2-dihydro-1-oxophthalazin-4-ylacetate | 7.3 g | ClC=1C=C(CN2C(C3=CC=CC=C3C(=N2)CC(=O)OCC)=O)C=CC1Br | C19H16BrClN2O3
